US07812025B2
(2) tert-Butyl 4-(5-phenylpyridin-2-yl)piperazine-1-carboxylate
A mixed solution of tert-butyl 4-(5-bromopyridin-2-yl)piperazine-1-carboxylate (1.00 g, 2.92 mmol), phenylboronic acid (535 mg, 4.38 mmol), ethanol (2.5 ml), 2N aqueous solution of sodium carbonate (12 ml), tetrakis(triphenylphosphine)palladium (404 mg, 0.350 mmol) and toluene (23 ml) was stirred at 95° C. for 12 hours under a nitrogen atmosphere, and the solvent was distilled away under reduce pressure. The residue was poured into water, and extracted with ethyl acetate. The extract was washed with water, dried over anhydrous magnesium sulfate, and the solvent was distilled away under reduce pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=2:1) to give the titled compound 800 mg (80.7%) as solid product.

reactant | tert-butyl 4-(5-bromopyridin-2-yl)piperazine-1-carboxylate | 2.92 mmol, 1.00 g | BrC=1C=CC(=NC1)N1CCN(CC1)C(=O)OC(C)(C)C | C14H20BrN3O2
reactant | phenylboronic acid | 4.38 mmol, 535 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | ethanol | 2.5 ml | C(C)O | C2H6O
reactant | sodium carbonate | 12 ml | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium | 0.350 mmol, 404 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | 23 ml | C1(=CC=CC=C1)C | C7H8
product | tert-Butyl 4-(5-phenylpyridin-2-yl)piperazine-1-carboxylate | 800 mg, 80.7% | C1(=CC=CC=C1)C=1C=CC(=NC1)N1CCN(CC1)C(=O)OC(C)(C)C | C20H25N3O2
